US05780465
8. Preparation of 6-Ethyl-2,2-dimethyl-1-indanone
6-Fluoro-2,2-dimethyl-1-indanone, a white crystalline solid melting at 64.5°-66.5° C. and 2,2-dimethyl-1-tetralone, a colorless liquid boiling at 88°-89° C. under 0.75 mm Hg (100 Pascals) pressure were prepared similarly.

reactant | 6-Fluoro-2,2-dimethyl-1-indanone | FC1=CC=C2CC(C(C2=C1)=O)(C)C | C11H11FO
reactant | 2,2-dimethyl-1-tetralone | CC1(C(C2=CC=CC=C2CC1)=O)C | C12H14O
product | 6-Ethyl-2,2-dimethyl-1-indanone | C(C)C1=CC=C2CC(C(C2=C1)=O)(C)C | C13H16O
